US06458772B1
Dibenzyl ester of 2-[5-(N-trityl-L-valyloxymethyl)-6-stearoyloxyhexanoyloxy]-1,3-bis-(2-carboxychromon-5-yloxy)propane (238 mg, (0.17 mmol) was dissolved in ethyl acetate (1.5 ml). To the solution was added 80% acetic acid (10 ml). After two hr, the solution was evaporated and purified by column chromatography to yield 197 mg of 2-[5-(L-valyloxymethyl)-6-stearoyloxyhexanoyloxy]-1,3-bis-(2-carboxychromon-5-yloxy)propane.

reactant | 2-[5-(N-trityl-L-valyloxymethyl)-6-stearoyloxyhexanoyloxy]-1,3-bis-(2-carboxychromon-5-yloxy)propane | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CCCC(=O)OC(COC1=C2C(C=C(OC2=CC=C1)C(=O)O)=O)COC1=C2C(C=C(OC2=CC=C1)C(=O)O)=O)COC(CCCCCCCCCCCCCCCCC)=O | C72H85NO16
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[5-(L-valyloxymethyl)-6-stearoyloxyhexanoyloxy]-1,3-bis-(2-carboxychromon-5-yloxy)propane | 197 mg | N[C@@H](C(C)C)C(=O)OCC(CCCC(=O)OC(COC1=C2C(C=C(OC2=CC=C1)C(=O)O)=O)COC1=C2C(C=C(OC2=CC=C1)C(=O)O)=O)COC(CCCCCCCCCCCCCCCCC)=O | C53H71NO16
